US04195021
Benzhydryl 2-(3-amino-2-oxoazetidin-1-yl)-3-methyl-4-methoxy-2-butenoate hydrochloride
To a solution of 600 mg (1.1 mmol) of benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-4-methoxy-2-butenoate and 0.106 ml pyridine in 10 ml of methylene chloride at 0° was added 252 mg (1.32 mmol) of phosphorous pentachloride. The reaction mixture was stirred for 2 hours while it was allowed to warm to 10°. The solution was then cooled to 0° and 0.2 ml of isobutanol was added. After 1 hour at 0°, 150 ml of ether was slowly added. The supernatant liquid was then decanted from the resulting oily residue, which was itself then thoroughly triturated with ether: nmr (CDCl3) δ 2.08 (s, 3, CH3), 3.12 (s, 3, --OCH3), 4.22 (s, 2, --CH2OCH3), 3.92 (m, 2, C4 --H), 4.82 (m, 1, C3 --H), and 7.2 (b, ArH).

reactant | benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-4-methoxy-2-butenoate | 1.1 mmol, 600 mg | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(COC)C)=O | C30H30N2O6
reactant | pyridine | 0.106 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorous pentachloride | 1.32 mmol, 252 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | isobutanol | 0.2 ml | C(C(C)C)O | C4H10O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 150 ml | CCOCC | C4H10O
product | Benzhydryl 2-(3-amino-2-oxoazetidin-1-yl)-3-methyl-4-methoxy-2-butenoate hydrochloride | Cl.NC1C(N(C1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(COC)C)=O | InChI=1S/C22H24N2O4.ClH/c1-15(14-27-2)19(24-13-18(23)21(24)25)22(26)28-20(16-9-5-3-6-10-16)17-11-7-4-8-12-17;/h3-12,18,20H,13-14,23H2,1-2H3;1H
